US06403595B1
1-(1-Acetyl-4-methoxycarbonylpiperidin-4-ylmethyl)-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone
To a solution of the obtained 1-(1-acetyl-4-methoxycarbonylpiperidin-4-ylmethyl)-4-(7-chloro-4-oxo-4H-benzopyran-3-sulfonyl)-2-piperazinone (1.10 g) in methanol (20 ml) was added sodium borohydride (116 mg), and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated, and to the residue was added citric acid solution. The mixture was extracted with ethyl acetate, washed with brine, dried and concentrated, and the residue was dissolved in dichloromethane (20 ml). To the solution were added triethylamine (1.23 g) and methanesulfonyl chloride (420 mg), and the mixture was stirred at room temperature for 1 hour. The reaction solution was diluted with dichloromethane, washed with citric acid solution and brine, dried and concentrated, and the residue was purified with silica gel column chromatography (ethyl acetate:methanol=20:1) to give colorless solid of the title compound (790 mg).

reactant | 1-(1-acetyl-4-methoxycarbonylpiperidin-4-ylmethyl)-4-(7-chloro-4-oxo-4H-benzopyran-3-sulfonyl)-2-piperazinone | 1.10 g | C(C)(=O)N1CCC(CC1)(C(=O)OC)CN1C(CN(CC1)S(=O)(=O)C1=COC2=C(C1=O)C=CC(=C2)Cl)=O | C23H26ClN3O8S
reactant | sodium borohydride | 116 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-(1-Acetyl-4-methoxycarbonylpiperidin-4-ylmethyl)-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone | 790 mg | C(C)(=O)N1CCC(CC1)(C(=O)OC)CN1C(CN(CC1)S(=O)(=O)C=1COC2=C(C1)C=CC(=C2)Cl)=O | C23H28ClN3O7S
